US07160892B2
Ethyl (E)-3-(3-fluorophenyl)-2-(4-pyridyl)-2-propenoate
A solution of ethyl 4-pyridylacetate (25.0 g, 0.151 mol) and 3-fluorobenzaldehyde (20.7 g, 0.167 mol) in a mixture of acetic anhydride (100 mL) and triethylamine (20 mL) was heated under reflux for 5.5 hours. After standing to cool, the reaction mixture was concentrated. The residue was diluted with ethyl acetate and a saturated aqueous sodium hydrogencarbonate solution, and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with a saturated aqueous sodium hydrogencarbonate solution twice and brine, dried over anhydrous sodium sulfate and then concentrated. The residue was subjected to silica gel column chromatography (eluent; hexane, hexane:ethyl acetate=9:1), to give the title compound (25.5 g, 62%) as a red-orange oil.

reactant | ethyl 4-pyridylacetate | 0.151 mol, 25.0 g | N1=CC=C(C=C1)CC(=O)OCC | C9H11NO2
reactant | 3-fluorobenzaldehyde | 0.167 mol, 20.7 g | FC=1C=C(C=O)C=CC1 | C7H5FO
solvent | acetic anhydride | 100 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | triethylamine | 20 mL | C(C)N(CC)CC | C6H15N
product | Ethyl (E)-3-(3-fluorophenyl)-2-(4-pyridyl)-2-propenoate | 25.5 g, 62% | FC=1C=C(C=CC1)/C=C(/C(=O)OCC)\C1=CC=NC=C1 | C16H14FNO2
